US04618677
22.0 g g of 1-bromo-3-chloropropane were added to a mixture of 33.0 g of 4-chlorobenzyl-2,5-dimethylpiperazine, 25.0 g of potassium hydroxide and 125 ml of dimethyl sulfoxide. After stirring the solution for 3 hours at room temperature, water was added, the product was extracted with ether, and the extract was dried (magnesium sulfate) and concentrated to give 25.8 g (58% of theory) of 1-(4-chlorobenzyl)-2,5-dimethyl-4-(3-chloropropyl)piperazine as an oil, suitable for use in the next reaction.

reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | 4-chlorobenzyl-2,5-dimethylpiperazine | 33.0 g | ClC1=CC=C(CN2C(CNC(C2)C)C)C=C1 | C13H19ClN2
reactant | potassium hydroxide | 25.0 g | [OH-].[K+]
reactant | dimethyl sulfoxide | 125 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(4-chlorobenzyl)-2,5-dimethyl-4-(3-chloropropyl)piperazine | 25.8 g, 58% | ClC1=CC=C(CN2C(CN(C(C2)C)CCCCl)C)C=C1 | C16H24Cl2N2
